US03955997
Preparation of Benzylidene Sorbitol:
To a mixture of 40.0 g of 70% sorbitol, 29.4 g of benzaldehyde and 520 ml of cyclohexane under nitrogen gas was added 0.3 ml of 96% sulfuric acid dropwise with stirring, then the mixture was heated to allow to condense while eliminating the generated water by azeotropic distillation. After about 7 hours' continuation of the reaction, the reaction mixture was cooled to room temperature and then neutralized. The precipitate was settled and washed with water by decantation, then filtered and rinsed several times with hot water, further finally dried to obtain the reaction product as white powder.

reactant | sorbitol | 40.0 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | benzaldehyde | 29.4 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | cyclohexane | 520 ml | C1CCCCC1 | C6H12
reactant | sulfuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | Benzylidene Sorbitol | C(C1=CC=CC=C1)=C(O)[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C13H18O6
